US07479493B2
[4-(3,4-Dichloro-phenoxy)-3-methylaminomethyl-phenyl]-(4-isopropyl-piperazin-1-yl)-methanone
[2-(3,4-Dichloro-phenoxy)-5-(4-isopropyl-piperazine-1-carbonyl)-benzyl]-methyl-carbamic acid tert-butyl ester. To a solution of [5-bromo-2-(3,4-dichloro-phenoxy)-benzyl]-carbamic acid tert-butyl ester (327.0 mg, 0.71 mmol) in THF (2 mL) were added DBU (0.30 mL, 2.0 mmol), 1-isopropyl piperazine (0.30 mL, 2.5 mmol), Hermann's catalyst (31.9 mg, 0.034 mmol), tri-t-butylphosphium tetrafluoroborate (26.4 mg, 0.091 mmol), and Mo(CO)6 (211.0 mg, 0.80 mmol). After 6 min in a microwave reactor at 125° C., the mixture was cooled to rt and concentrated. Purification by FCC gave the desired product (212.5 mg, 56%).

reactant | [2-(3,4-Dichloro-phenoxy)-5-(4-isopropyl-piperazine-1-carbonyl)-benzyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)C(=O)N1CCN(CC1)C(C)C)OC1=CC(=C(C=C1)Cl)Cl)=O | C27H35Cl2N3O4
reactant | [5-bromo-2-(3,4-dichloro-phenoxy)-benzyl]-carbamic acid tert-butyl ester | 0.71 mmol, 327.0 mg | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)Br)OC1=CC(=C(C=C1)Cl)Cl)=O | C18H18BrCl2NO3
reactant | DBU | 2.0 mmol, 0.30 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-isopropyl piperazine | 2.5 mmol, 0.30 mL | C(C)(C)N1CCNCC1 | C7H16N2
reactant | tetrafluoroborate | 0.091 mmol, 26.4 mg | F[B-](F)(F)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [4-(3,4-Dichloro-phenoxy)-3-methylaminomethyl-phenyl]-(4-isopropyl-piperazin-1-yl)-methanone | 212.5 mg, 56% | ClC=1C=C(OC2=C(C=C(C=C2)C(=O)N2CCN(CC2)C(C)C)CNC)C=CC1Cl | C22H27Cl2N3O2
